US05112841
(3) 2-Chloro-4-phenylthiazole
To 80 ml of phosphorus oxychloride were added 7.7 g (43 mmol) of 2-hydroxy-4-phenylthiazole, followed by heating at 100°-105° C. for 2 hours. The solvent was then distilled off from the reaction mixture under reduced pressure. Ice water was added to the residue, followed by extraction with ethyl ether. The ether layer was washed with water. After purification by silica gel column chromatography (solvent: hexane/ethyl acetate=5/1), the title compound was obtained as pale yellow crystals.

reactant | 2-hydroxy-4-phenylthiazole | 43 mmol, 7.7 g | OC=1SC=C(N1)C1=CC=CC=C1 | C9H7NOS
reactant | phosphorus oxychloride | 80 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-4-phenylthiazole | ClC=1SC=C(N1)C1=CC=CC=C1 | C9H6ClNS
